US07320995B2
2-phenyl-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole
Prepare 2-iminopyrrolidine hydrochloride (6.98 g, 57.8 mmol) according to Callahan, et al., J. Med. Chem. 2002, 45, 999-1001) and combine 2-bromoacetophenone (3.8 g, 19.3 mmol) with Na2CO3 (8.2 g, 77.2 mmol) in dry DMF (25 mL) and heat at 80° C. for 18 hours. Then, cool the mixture to room temperature, add water (60 mL), and extract with EtOAc (3×100 mL). Concentrate the combined organic layers in vacuo, dilute the residue with ether (100 mL), and wash with cooled water (3×80 mL). Concentrate the organic layer in vacuo to give a white solid, 3.2 g, 89% yield. MS(ES+): m/z=185.1 (M+H)+

reactant | 2-iminopyrrolidine hydrochloride | 57.8 mmol, 6.98 g | Cl.N=C1NCCC1
reactant | 2-bromoacetophenone | 19.3 mmol, 3.8 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Na2CO3 | 77.2 mmol, 8.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 60 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole | 89% yield | C1(=CC=CC=C1)C=1N=C2N(C1)CCC2 | C12H12N2
